US06660744B1
Di-tert-butyl-dicarbonate (5.63 g, 0.0258 mol) was dissolved in anhydrous dichloromethane (150 mL), cooled to 0° C. and the solution of (4-bromophenyl)(phenyl) methanamine (5.2 g, 0.0198 mol) in anhydrous dichloromethane (30 mL) was added dropwise. The mixture was warmed up to ambient temperature and stirred under an atmosphere of nitrogen for sixteen hours. The organic phase was washed with saturated solution of sodium bicarbonate in water (120 mL), dried with magnesium sulfate and concentrated under reduced pressure to yield a yellow oil which was purified by flash chromatography on silica using ethyl acetate/n-heptane (7:93) as mobile phase to yield tert-butyl N-[(4-bromophenyl)(phenyl)methyl]carbamate (5.9 g, 0.0163 mol) as a colorless oil.

reactant | Di-tert-butyl-dicarbonate | 0.0258 mol, 5.63 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | (4-bromophenyl)(phenyl) methanamine | 0.0198 mol, 5.2 g | BrC1=CC=C(C=C1)C(N)C1=CC=CC=C1 | C13H12BrN
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | tert-butyl N-[(4-bromophenyl)(phenyl)methyl]carbamate | 0.0163 mol, 5.9 g | BrC1=CC=C(C=C1)C(NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C18H20BrNO2
